US06703347B2
A solution of tert-butylacetyl chloride (2.7 g, 0.020 mol) in diethyl ether (20 ml) was added dropwise to a solution of 2-amino-4bromophenol (3.8 g, 0.020 mol) and triethylamine (2.1 g, 0.020 mol) in diethyl ether (160 ml) and the mixture was stirred at room temperature for 3 hours. The mixture was filtered and the filtrate was evaporated in vacuo. Purification by flash column chromatography on silica gel, eluting initially with ethyl acetate:dichloromethane 1.5:98.5 and then with ethyl acetate:dichloromethane 2.5:97.5, gave N-(2-hydroxy-5-bromophenyl)-3,3-dimethylbutyramide (1.8 g).

reactant | tert-butylacetyl chloride | 0.020 mol, 2.7 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | 2-amino-4bromophenol | 0.020 mol, 3.8 g | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | triethylamine | 0.020 mol, 2.1 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
product | N-(2-hydroxy-5-bromophenyl)-3,3-dimethylbutyramide | 1.8 g | OC1=C(C=C(C=C1)Br)NC(CC(C)(C)C)=O | C12H16BrNO2
